US04263299
(a) 4-Ethoxy-7-methylcoumarin
Dry hydrogen chloride was passed through a solution of 4-hydroxy-7-methylcoumarin (14 g; 0.08 mole) in ethanol (300 ml) for 15 mins and the resulting solution was refluxed for 30 minutes. After cooling, the solvent was removed in vacuo and the residue recrystallized from ethanol to give 11.74 g (72%) of product of m.p. 142°-143° C.; (Found; C, 70.24; H, 5.95; C12H12O3 requires; C, 70.60; H, 5.88%).

reactant | hydrogen chloride | Cl | ClH
reactant | 4-hydroxy-7-methylcoumarin | 0.08 mole, 14 g | OC1=CC(OC2=CC(=CC=C12)C)=O | C10H8O3
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | 4-Ethoxy-7-methylcoumarin | 11.74 g, 72% | C(C)OC1=CC(OC2=CC(=CC=C12)C)=O | C12H12O3
